US08076324B2
4-(3-Bromophenyl)-4-cyclopropylmethoxy-1-phenylcyclohexanecarbonitrile
The title compound was prepared from 4-(3-bromophenyl)-4-hydroxy-1-phenylcyclohexanecarbonitrile and bromomethylcyclopropane according to the process described in Example 41.

reactant | 4-(3-bromophenyl)-4-hydroxy-1-phenylcyclohexanecarbonitrile | BrC=1C=C(C=CC1)C1(CCC(CC1)(C#N)C1=CC=CC=C1)O | C19H18BrNO
reactant | bromomethylcyclopropane | BrCC1CC1 | C4H7Br
product | 4-(3-Bromophenyl)-4-cyclopropylmethoxy-1-phenylcyclohexanecarbonitrile | BrC=1C=C(C=CC1)C1(CCC(CC1)(C#N)C1=CC=CC=C1)OCC1CC1 | C23H24BrNO
